US08536364B2
Synthesis of ethyl 3-acetylthio-2-methylbutyrate (in the Absence of the Acid Catalyst)
A mixture of 3.20 g (0.025 mol) of ethyl tiglate and 4.76 g (0.0625 mol) of thioacetic acid was prepared and allowed to react under nitrogen atmosphere at 85° C. for 24 hours. The results showed that the conversion rate of ethyl tiglate was 35.3%, and that the selectivity for the objective compound was 91.6%.

reactant | ethyl tiglate | 0.025 mol, 3.20 g | C(\C(\C)=C\C)(=O)OCC | C7H12O2
reactant | thioacetic acid | 0.0625 mol, 4.76 g | C(C)(=S)O | C2H4OS
product | ethyl 3-acetylthio-2-methylbutyrate | C(C)(=O)SC(C(C(=O)OCC)C)C | C9H16O3S
